US04956372
To the solution of benzyl 6-cyano-1,2,3,4-tetrahydroquino- line-8-carboxylate (2.5 g) in ethanol (20 ml) was added 35% hydrogen peroxide solution (3 ml) and 6 N sodium hydroxide solution (0.33 ml). The reaction mixture was stirred at 40°-45° C. for 7 hours. The resulting precipitate was collected by filtration and washed with ethanol to give benzyl 6-carbamoyl-1,2,3,4-tetrahydroquinoline-8-carboxylate (1.10 g, 41.7%).

reactant | benzyl 6-cyano-1,2,3,4-tetrahydroquino- line-8-carboxylate | 2.5 g | C(#N)C=1C=C2CCCNC2=C(C1)C(=O)OCC1=CC=CC=C1 | C18H16N2O2
reactant | hydrogen peroxide | 3 ml | OO | H2O2
reactant | sodium hydroxide | 6 N, 0.33 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | benzyl 6-carbamoyl-1,2,3,4-tetrahydroquinoline-8-carboxylate | 1.10 g, 41.7% | C(N)(=O)C=1C=C2CCCNC2=C(C1)C(=O)OCC1=CC=CC=C1 | C18H18N2O3
